US04356186
Allyl 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenzo[b,e]thiepin-3-yl)propionate
To a solution of 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenzo[b,e]thiepin-3-yl)propionic acid (2.0 g) in allyl alcohol (20 ml) was added concentrated sulfuric acid (1 ml) and the mixture was heated under reflux for one hour in an oil bath maintained at 110° C. The reaction mixture was diluted with water and extracted with toluene. The toluene layers were washed with water, dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was chromatographed on silica gel, using toluene as an eluent, to give the title compound (1.2 g) as an oil. IR νmaxfilm cm-1 : 1720, 1670 (C=O). HRMS m/e: 344.1415 (Molecular weight calculated for C20H24O3S: 344.1445).

reactant | 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenzo[b,e]thiepin-3-yl)propionic acid | 2.0 g | O=C1C2=C(SCC3C1CCCC3)C=C(C=C2)C(C(=O)O)C | C17H20O3S
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | allyl alcohol | 20 ml | C(C=C)O | C3H6O
solvent | water | O | H2O
product | Allyl 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenzo[b,e]thiepin-3-yl)propionate | 1.2 g | O=C1C2=C(SCC3C1CCCC3)C=C(C=C2)C(C(=O)OCC=C)C | C20H24O3S
